US08183246B2
6-{[6-(2-Fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Dissolve 150 mg (0.34 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester and 142 mg (0.84 mmol) (2-fluoro-6-methoxyphenyl)boronic acid in 2.0 ml 1,2-dimethoxyethane and add 0.34 ml of 2 M aqueous sodium carbonate solution and 24 mg (0.03 mmol) 1,1′-bis(diphenylphosphano)ferrocene palladium(II) chloride. Next, stir for 15 h at 80° C. Purify the reaction mixture directly by preparative RP-HPLC (gradient: water/acetonitrile). 56 mg (34% of theor.) of the desired product is obtained.

reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.34 mmol, 150 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | (2-fluoro-6-methoxyphenyl)boronic acid | 0.84 mmol, 142 mg | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 2 M, 0.34 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2.0 ml | COCCOC | C4H10O2
product | 6-{[6-(2-Fluoro-6-methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2OC)F)=O | C27H28FN3O5
